US04673746
A mixture of 19 g of E-3-chloro-2',5'-difluoro-2-hydroxy-4-methoxybenzophenone oxime and 10 ml of acetic anhydride was warmed at 60° C. for 30 minutes. On cooling the mixture solidifies. The residue is partitioned between ethyl acetate and 10%NaHCO3. The ethylacetate extract is washed with water, dried over Na2SO4 and evaporated to give E-3-chloro-2',5'-difluoro-2-hydroxy-4-methoxybenzophenone O-acetyl oxime, mp 130°-131° C.

reactant | E-3-chloro-2',5'-difluoro-2-hydroxy-4-methoxybenzophenone oxime | 19 g | ClC=1C(=C(\C(\C2=C(C=CC(=C2)F)F)=N/O)C=CC1OC)O | C14H10ClF2NO3
reactant | acetic anhydride | 10 ml | C(C)(=O)OC(C)=O | C4H6O3
product | E-3-chloro-2',5'-difluoro-2-hydroxy-4-methoxybenzophenone O-acetyl oxime | C(C)(=O)O\N=C(/C1=C(C(=C(C=C1)OC)Cl)O)\C1=C(C=CC(=C1)F)F | C16H12ClF2NO4
